US08258152B2
Ethyl 1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate
To a suspension of methyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate (0.81 g, 4.26 mmol) in DMF (15 ml) was added potassium tert-butoxide (0.72 g, 6.39 mmol). After the resultant red-brown suspension had been stirred for 40 minutes, a solution of 2-fluoro-4-iodobenzyl bromide (2.01 g, 6.39 mmol) in DMF (5 ml) was added dropwise over 10 minutes. The suspension was then heated to 60° C. for 35 minutes before stirring at room temperature for 18 hours. The reaction mixture was concentrated in vacuo, the resultant residue partitioned between dichloromethane (40 ml) and water (30 ml) and the organic layer separated. The aqueous layer was extracted with dichloromethane (2×25 ml) and the combined organic extracts were washed with brine (30 ml) dried over magnesium sulphate, then concentrated in vacuo to provide a residue. The residue was purified by flash chromatography (Si-SPE, dichloromethane:ethyl acetate 100:0 to 50:50 to 0:100 then dichloromethane:methanol 90:10 to 80:20) gave the title compound as a pale cream solid (0.83 g, 46%). LCMS (method B): RT=2.58 min, M+H+=425.

reactant | methyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 4.26 mmol, 0.81 g | N1C(=CC=2C1=CN=CC2)C(=O)OC | C9H8N2O2
reactant | potassium tert-butoxide | 6.39 mmol, 0.72 g | CC(C)([O-])C.[K+]
reactant | 2-fluoro-4-iodobenzyl bromide | 6.39 mmol, 2.01 g | FC1=C(CBr)C=CC(=C1)I | C7H5BrFI
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Ethyl 1-(2-fluoro-4-iodo-benzyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 0.83 g, 46% | FC1=C(CN2C(=CC=3C2=CN=CC3)C(=O)OCC)C=CC(=C1)I | C17H14FIN2O2
